### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Reproducing): add posSemidef_norm_sq_smul_kernel_sub_outerKernel

### PR DESCRIPTION
**Pull request by TJHeeringa**
This PR adds `posSemidef_norm_sq_smul_kernel_sub_outerKernel`, which shows that the matrix `(‖f‖ : 𝕜) ^ 2 • K - outerKernel 𝕜 f` is positive semi-definite.

---

#38584 has been split up into parts. This is one of these.

This is a supportive lemma/theorem for when an arbitrary function `f : X → V` is in the submodule `Submodule 𝕜 (X → V)` into which the RKHS embeds.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 1]
```diff
@@ -510,6 +510,27 @@ lemma posSemidef_outerKernel (f : X → V) : (outerKernel 𝕜 f).PosSemidef :=
 instance (f : X → V) : Fact (outerKernel 𝕜 f).PosSemidef := by
   simp [fact_iff, posSemidef_outerKernel 𝕜 f]
 
+lemma kernel_span_singleton (f : H) :
+    kernel (𝕜 ∙ f) = (1 / (‖f‖ : 𝕜) ^ 2) • outerKernel 𝕜 f := by
+  ext
+  simp [kernel_submodule, starProjection_singleton, division_def, smul_smul, mul_comm]
+
+lemma kernel_span_singleton_perp (f : H) :
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
lemma kernel_orthogonal_span_singleton (f : H) :
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 2]
```diff
@@ -510,6 +510,27 @@ lemma posSemidef_outerKernel (f : X → V) : (outerKernel 𝕜 f).PosSemidef :=
...
+  simp [kernel_submodule, starProjection_singleton, division_def, smul_smul, mul_comm]
+
+open ComplexOrder in
+theorem posSemidef_norm_sq_smul_kernel_sub_outerKernel (f : OfKernel K) :
+    ((‖f‖ : 𝕜) ^ 2 • K - outerKernel 𝕜 f).PosSemidef := by
+  by_cases hf : f = 0
+  · simp [hf, Matrix.PosSemidef.zero]
+  suffices ((‖f‖ : 𝕜) ^ 2 • (K - (1 / (‖f‖ : 𝕜) ^ 2) • outerKernel 𝕜 f)).PosSemidef by
+    have hp : (‖f‖ ^ 2 : 𝕜) ≠ 0 := by simpa
+    simpa [smul_sub, smul_inv_smul₀ hp (outerKernel 𝕜 ⇑f)] using this
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  have hp : (‖f‖ ^ 2 : 𝕜) ≠ 0 := by simpa
  rw [← smul_inv_smul₀ hp (outerKernel 𝕜 f), ← smul_sub]
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 3]
```diff
@@ -510,6 +510,27 @@ lemma posSemidef_outerKernel (f : X → V) : (outerKernel 𝕜 f).PosSemidef :=
...
+  refine Matrix.PosSemidef.smul ?_ (by simp)
+  simpa [kernel_span_singleton_perp] using (posSemidef_kernel ↥(𝕜 ∙ f)ᗮ)
```
Comment (Maldooor) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]:
```suggestion
  simpa [kernel_span_singleton_perp] using posSemidef_kernel (𝕜 ∙ f)ᗮ
```

**Review by Maldooor — APPROVED** [review]
Thanks!
Here's some minor fixes

**Comment by Maldooor** [comment]
Looks good to me, @YaelDillies could you take a look also?

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 4]
```diff
@@ -510,6 +510,26 @@ lemma posSemidef_outerKernel (f : X → V) : (outerKernel 𝕜 f).PosSemidef :=
 instance (f : X → V) : Fact (outerKernel 𝕜 f).PosSemidef := by
   simp [fact_iff, posSemidef_outerKernel 𝕜 f]
 
+lemma kernel_span_singleton (f : H) :
+    kernel (𝕜 ∙ f) = (1 / (‖f‖ : 𝕜) ^ 2) • outerKernel 𝕜 f := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: We prefer `x\-1` to `1/x`
```suggestion
    kernel (𝕜 ∙ f) = (‖f‖\-1 ^ 2 : 𝕜) • outerKernel 𝕜 f := by
```

File: Mathlib/Analysis/InnerProductSpace/Reproducing.lean [hunk 5]
```diff
@@ -510,6 +510,26 @@ lemma posSemidef_outerKernel (f : X → V) : (outerKernel 𝕜 f).PosSemidef :=
...
+  ext
+  simp [kernel_submodule, starProjection_singleton, division_def, smul_smul, mul_comm]
+
+lemma kernel_orthogonal_span_singleton (f : H) :
+    kernel (𝕜 ∙ f)ᗮ = kernel H - (1 / (‖f‖ : 𝕜) ^ 2) • outerKernel 𝕜 f := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Isn't it generally true that
```suggestion
lemma kernel_orthogonal : kernel Vᗮ = kernel H - kernel V := by
```
?

Comment (TJHeeringa) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Yes, and then
```lean4
lemma kernel_orthogonal_span_singleton (f : H) :
    kernel (𝕜 ∙ f)ᗮ = kernel H - (1 / (‖f‖ : 𝕜) ^ 2) • outerKernel 𝕜 f := by 
  simpa [kernel_span_singleton] using kernel_orthogonal (𝕜 ∙ f)
```

Comment (YaelDillies) [reply Mathlib/Analysis/InnerProductSpace/Reproducing.lean]: Cool, then let's not have the specialised lemma

**Comment by TJHeeringa** [comment]
-awaiting-author

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
